US07361678B2
[3-(4-{1-[4-(biphenyl-4-yloxy)-phenyl]-2-butyl-1H-imidazol-4-yl}-phenoxy)-propyl]-diethyl-amine
To a stirred solution of 4-(biphenyl-4-oxy)aniline (1.2 eq., 2.5 mmol) in anhydrous DMF (5 mL) DIEA (3 eq. 6 mmol) was added, followed by slow addition of the 2-bromo-1-{4-[3-(diethylamino)propoxy]phenyl}ethanone described above (2.4 mmol), according to General Procedure R2. The reaction mixture was stirred under nitrogen at rt until completion, as indicated by TLC or HPLC. The reaction mixture was then diluted with cold H2O and the product was isolated in EtOAc. The combined organic layers were washed with brine and dried over sodium sulfate. Evaporation of solvent in vacuuo afforded the desired product. The crude alkylated aniline was purified by chromatography (Silica gel). Pure product obtained from 2–4% MeOH/DCM (yield˜13%

reactant | 4-(biphenyl-4-oxy)aniline | 2.5 mmol, 1.2 eq. | C1(=CC=C(C=C1)OC1=CC=C(N)C=C1)C1=CC=CC=C1 | C18H15NO
reactant | DMF | 6 mmol, 5 mL, 3 eq | CN(C)C=O | C3H7NO
reactant | 2-bromo-1-{4-[3-(diethylamino)propoxy]phenyl}ethanone | BrCC(=O)C1=CC=C(C=C1)OCCCN(CC)CC | C15H22BrNO2
solvent | H2O | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | [3-(4-{1-[4-(biphenyl-4-yloxy)-phenyl]-2-butyl-1H-imidazol-4-yl}-phenoxy)-propyl]-diethyl-amine | yield˜13% | C1(=CC=C(C=C1)OC1=CC=C(C=C1)N1C(=NC(=C1)C1=CC=C(OCCCN(CC)CC)C=C1)CCCC)C1=CC=CC=C1 | C38H43N3O2
